US07262198B2
To a solution of N-[(3R)-1-(4-chlorophenyl)-2-oxopyrrolidin-3-yl](phenylmethoxy)carboxamide (0.2 g, 0.58 mmol) in ethanol (10 ml) and cyclohexene (4 ml) was added palladium hydroxide (40 mg). The reaction was refluxed vigorously overnight. Palladium was removed by filtration and the filtrate was concentrated to yield (3R)-3-amino-1-(4-chlorophenyl)pyrrolidin-2-one.

reactant | N-[(3R)-1-(4-chlorophenyl)-2-oxopyrrolidin-3-yl](phenylmethoxy)carboxamide | 0.58 mmol, 0.2 g | ClC1=CC=C(C=C1)N1C([C@@H](CC1)NC(=O)OCC1=CC=CC=C1)=O | C18H17ClN2O3
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | cyclohexene | 4 ml | C1=CCCCC1 | C6H10
catalyst | palladium hydroxide | 40 mg | [OH-].[Pd+2].[OH-]
product | (3R)-3-amino-1-(4-chlorophenyl)pyrrolidin-2-one | N[C@H]1C(N(CC1)C1=CC=C(C=C1)Cl)=O | C10H11ClN2O
